Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS, ASA, statins
 
Attending: ___
 
Chief Complaint:
New Afib 
 
Major Surgical or Invasive Procedure:
ECHO on ___ 

 
History of Present Illness:
Ms. ___ is an ___ F with h/o CAD, severe aortic stenosis, 
COPD on 2 L NC, ESRD on HD MWF, hypothyroidism, chronic pain 
transferred from ___ for new onset Afib. She was 
apparently found to have new Afib at dialysis on ___ did 
not receive dialysis). She reports new SOB on morning of ___ 
that was so severe she had to sit on ___ couch and draw in deep 
breaths for 30 mins. SOB worse was with activity, and the 
patient stated she could not walk from bed to door without SOB. 
Patient denied chest pain, lightheadedness, cough, nausea, abd 
pain, urinary sx, diarrhea. 

Of note she had a recent hospitalization at OSH from ___ 
for SOB thought to be secondary to acute CHF. She had bibasilar 
infiltrates on CXR and a troponin elevated to 0.19, thought to 
be demand ischemia. ECHO showed >50% LVEF, critical AS with 0.5 
cm2, moderate MR. ___ cardiologist recommended cath in the 
outpatient setting, followed by TAVR evaluation, and she had an 
appointment to see him on ___. She reports at that appointment 
she decided she did not want to pursue procedures/surgery (she 
didn't know what a TAVR meant when asked though) and wanted to 
"live life as best I can." 

On day of admission, she had a CXR at OSH that showed a 
questionable right sided PNA, and was treated with a dose of 
levofloxacin and CTX. She was initially hypotensive at the 
outside hospital and was given 1 L IVF, but then became volume 
overloaded. 

In the ED initial vitals were: ___ F, BP 136/68, HR 126, RR 22, 
99% 3 L NC. 

EKG: Atrial fibrillation with left bundle branch block (LBBB is 
old)

Labs/studies notable for: 
CBC: WBC 8.7, Hgb 9.1 (baseline unknown), plts 135. 
chem 10: Na 139, K 5.4, Cr 6.4
lactate 1.4 
CK 103 
INR 1.2 
trop 0.33
MB 12
bnp >70,000

Patient was given: 500 cc IVF, as well as calcium 
gluconate/insulin for K 5.4. 

On the floor patient was comfortable with HR in the 100-110s max 
120. BP 100s/60s. She reported feeling like she was not SOB. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: HLD 

2. CARDIAC HISTORY
- CAD: reported CAD, although no cath reports here 
- Pump: diastolic dysfunction with EF >50%, severe AS, moderate 
MR ___ ECHO below)  
- Rhythm: new afib, preexisting LBBB 
 
3. OTHER PAST MEDICAL HISTORY
aortic stenosis (aortic valve area of 0.6 cm2 and mild mitral 
stenosis and moderate mitral regurgitation) 
bradycardia 
ESRD MWF, initiated ___ 
COPD, baseline 2 L NC 
Anemia of chronic disease 
Hypothyroidism 
Carotid stenosis 
Chronic pain (back and left shoulder) 
L humerus fracture ___
Carpal tunnel 
 
Social History:
___
Family History:
Father had died of an MI at age ___.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

VS: 97.4 F, BP 100/60s, HR 100-110s, RR 20, 100% 2 l nc 
GENERAL: Well developed, A/Ox3, pleasant elderly woman 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP not elevated, around 8 cm. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Harsh systolic murmur and tachycardia, difficult to 
appreciate irregularity. 
LUNGS: No chest wall deformities or tenderness. Mild bibasilar 
crackles, very soft expiratory wheezes. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. Right arm AVF (failed 2x fistulas on left, 
maybe had a graft on left arm too?) 
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

PHYSICAL EXAM ON DISCHARGE:

VS: 98.5, BP 108-131/47-59, HR 69-72, RR 18, 98-99% 2L NC 
GENERAL: Well developed, A/Ox3, pleasant elderly woman 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP not elevated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Harsh systolic murmur and tachycardia.
LUNGS: No chest wall deformities or tenderness. Mild bibasilar 
crackles, with soft expiratory wheezes. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
 
Pertinent Results:
LABS ON ADMISSION: 

___  
Lactate-1.4
T4-4.7
TSH-4.7
Calcium-8.5
Phos-5.2 
Mg-2.2
CK-MB-12 
MB Indx-11.7 
cTropnT-0.33
CK(CPK)-103
Glucose-108 
UreaN-49 
Creat-6.4 
Na-139 
K-5.4 
Cl-96 
HCO3-30 
AnGap-18
___ 
PTT-28.9 
___
WBC-8.7 
RBC-2.82 
Hgb-9.1 
Hct-30.5 
MCV-108 
MCH-32.3 
MCHC-29.8 
RDW-13.3 
RDWSD-52.4 
Plt ___

LABS ON DISCHARGE:

___:
Calcium-8.5 
Phos-5.3 
Mg-2.0
CK-MB-6
cTropnT-1.03
Glucose-102 
UreaN-40 
Creat-5.3 
Na-134 
K-4.3 
Cl-93 
HCO3-29 
AnGap-16
___
PTT-33.3 
___
WBC-6.4 
RBC-2.80 
Hgb-8.8 
Hct-29.5 
MCV-105 
MCH-31.4 
MCHC-29.8 
RDW-13.1 
RDWSD-50.9 
Plt ___

MICRO: 
Blood culture: pending

IMAGING STUDIES:

CXR (___):

FINDINGS:  
  
There are moderate bilateral pleural effusions with overlying 
atelectasis. The cardiac silhouette is mild to moderately 
enlarged.  There is prominence of the bilateral central 
pulmonary vasculature worrisome for pulmonary edema. Right 
infrahilar opacity may be due to combination of pleural effusion 
and atelectasis, but underlying consolidation or other pulmonary 
lesion not excluded.  Recommend follow-up chest imaging 
following acute episode/diuresis. The aorta is calcified. 
  
IMPRESSION:  
  
Moderate bilateral pleural effusions with overlying atelectasis. 
 Pulmonary edema.  Cardiomegaly. Constellation of findings 
suggest CHF. 
  
Right infrahilar opacity may be secondary to the above findings, 
but 
underlying consolidation or other pulmonary lesion not excluded. 
 Recommend follow-up chest imaging after acute episode/ 
diuresis. 

CXR (___):

FINDINGS:  
  
There are persisting small to moderate bilateral pleural 
effusions with 
subjacent atelectasis as well as pulmonary vascular engorgement 
and mild 
interstitial septal thickening.  The right infrahilar opacity is 
unchanged. 
  
There is enlargement of the cardiac silhouette, unchanged. 
Calcification of the aortic arch is present. 
  
IMPRESSION:  
  
Findings are suggestive of pulmonary edema. 
  
Persisting right infrahilar opacity. 

ECHO (___):

The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild global left ventricular hypokinesis (LVEF 
= 45-50 %). No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. The right ventricular 
cavity is mildly dilated with normal free wall contractility. 
The ascending aorta is mildly dilated. The aortic valve leaflets 
are moderately thickened. There is severe aortic valve stenosis 
(valve area <1.0cm2). The mitral valve leaflets are mildly 
thickened. Mild to moderate (___) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. Tricuspid 
regurgitation is present but cannot be quantified. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.  

 
Brief Hospital Course:
___ F with h/o CAD, severe aortic stenosis, COPD on 2 L NC, ESRD 
on HD MWF, hypothyroidism, chronic pain transferred from ___ 
___ for new onset afib. 

#New onset Afib - various potential etiologies were considered 
for the patient's Afib, including infection, ischemia, CHF, 
thyroid dysfunction. TSH  was 4.7 and FT4 at 4.7. Patient was 
started on metoprolol tartrate 6.25 mg BID and patient was not 
started on anticoagulation. ECHO revealed mild symmetric left 
ventricular hypertrophy with normal left ventricular cavity and 
mild global left ventricular hypokinesis (LVEF = 45-50 %). There 
were No masses or thrombi seen in the left ventricle. The 
patient was in SR with Metoprolol 6.25 mg BID and was discharged 
on ___ with 25 mg Metoprolol succinate daily. ___ Afib was 
thought likely ___ infection (right lobe PNA) for which we 
treated with an 8-day course of levofloxacin.

#Right infrahilar opacity - the patient had a CXR showing a 
questionable right-sided PNA at an OSH for which she received a 
dose of CTX and levofloxacin. Given persisting right infrahilar 
opacity on CXR here, the patient was continued on a 
renally-dosed 8-day course of levofloxacin (500 mg Q48H) for 
community acquired PNA. The patient was afebrile without 
productive cough during ___ admission, though she did report 
mild shortness of breath during the first morning of ___ 
hospital stay that was alleviated with albuterol. 

#Elevated troponin level - the patient presented with elevated 
troponin to 0.33 and CKMB 12. There was no overt ischemic 
changes on EKG, and the patient had a known h/o LBBB. Though 
troponin levels increased from 0.33 --> 0.46 --> 1.03 during the 
___ hospital stay, the patient had no CP during ___ 
admission, and elevated troponin's were thought to be likely ___ 
ESRD. 

#ESRD - patient had HD on ___ and ___ during ___ 
hospital stay. 

#COPD - patient was continued on oxygen and albuterol prn 

#Hypothyroidism - patient was continued on home synthroid 

#Chronic pain - patient reported being on methadone, has 
self-titrated dose to 5 mg BID. She was additionally continued 
on home Tylenol and gabapentin. 

TRANSITIONAL ISSUES: 
====================
New Medications: Metoprolol, Levofloxacin
Stopped Medications: None
- after risk/benefit discussion, deferred starting AC with 
warfarin, consider as outpatient.
- patient will resume HD on regular ___ schedule
- please monitor clinically for resolution of PNA. 
# CODE: full, confirmed 
# CONTACT: ___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nephrocaps 1 CAP PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Gabapentin 300 mg PO QHS 
4. Gabapentin 100 mg PO QAM 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Methadone 5 mg PO BID 
7. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
8. Rosuvastatin Calcium 20 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q48H 
First dose on ___, last dose on ___ 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth every 
other day Disp #*2 Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
4.  Docusate Sodium 100 mg PO DAILY  
5.  Gabapentin 300 mg PO QHS  
6.  Gabapentin 100 mg PO QAM  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Methadone 5 mg PO BID  
9.  Nephrocaps 1 CAP PO DAILY  
10.  Rosuvastatin Calcium 20 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New onset Afib
Severe aortic stenosis 
COPD on 2 L NC
ESRD on HD MWF
Hypothyroidism
Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. While you were in the hospital, 
you were evaluated for an abnormal heart rhythym (atrial 
fibrillation) for which we started a new medication (metoprolol) 
for with good control of your heart rate and blood pressures. 
Since then, your heart rhythm has been in normal sinus rhythm. 
We also performed an echocardiogram of your heart which showed 
good contractility of your heart. 

During your hospital stay, a chest x-ray was obtained which 
showed an opacity in an area of your right lung for which we are 
treating for pneumonia. We recommend completing your course of 
antibiotics for 4 more days through ___.

If you have any fevers, chills, worsening chest pain, shortness 
of breath, nausea, vomiting, or diarrhea, please return to the 
hospital for further care. 

We wish you all the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___